US07592358B2
IP 13c. 5-(4-chlorophenyl)-2-ethynylpyridine
43.66 g (156.0 mmol) of TBAF was added to a solution of 46.50 g (142.0 mmol) of 2-[(tert-butyldimethylsilanyl)ethynyl]-5-(4-chlorophenyl)pyridine in 1 L of DCM at RT and the mixture was stirred for 2 hours. The organic phase was washed with water, dried over sodium sulfate, and evaporated down in vacuo. The residue was stirred with DIPE, and the precipitate was filtered off and washed with PE. Yield: 26.0 g (86% of theoretical); C13H8ClN (M=213.662); calc.: molpeak (M+H)+: 214/216 (Cl); found: molpeak (M+H)+: 214/216 (Cl); Rf value: 0.30 (silica gel, cyc/EtOAc 4:1).

reactant | TBAF | 156.0 mmol, 43.66 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 2-[(tert-butyldimethylsilanyl)ethynyl]-5-(4-chlorophenyl)pyridine | 142.0 mmol, 46.50 g | [Si](C)(C)(C(C)(C)C)C#CC1=NC=C(C=C1)C1=CC=C(C=C1)Cl | C19H22ClNSi
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | 5-(4-chlorophenyl)-2-ethynylpyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
